US20010003741A1
Synthesis of (1S,2S)-2-(3,6-dioxadodecanoyl)amino-3-morpholino-1-phenyl-1-propanol
Methylene chloride (40 ml), 3,6-dioxadodecanoic acid (1.086 g, 5.325 mmol) and EDC (1.167 g, 6.090 mmol) were added to (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol (959.1 mg, 4.064 mmol), followed by stirring for 3 hours. EDC (719.3 mg, 3.752 mmol) was added thereto and the mixture was further stirred for 3 days. After evaporating the solvent under reduced pressure, a saturated sodium hydrogen carbonate solution (70 ml) was added, followed by extraction with ethyl acetate (100 ml). After washed with water (70 ml) and saturated brine (70 ml) successively, the organic layer was dried over sodium sulfate and filtered, and the solvent was evaporated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform:methanol=30:1) to obtain the title compound (812.3 mg, yield 47.4%) as colorless oil.

reactant | 3,6-dioxadodecanoic acid | 5.325 mmol, 1.086 g | C(COCCOCCCCCC)(=O)O | C10H20O4
reactant | EDC | 6.090 mmol, 1.167 g
reactant | (1S,2S)-2-amino-3-morpholino-1-phenyl-1-propanol | 4.064 mmol, 959.1 mg | N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C13H20N2O2
reactant | EDC | 3.752 mmol, 719.3 mg
solvent | Methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S)-2-(3,6-dioxadodecanoyl)amino-3-morpholino-1-phenyl-1-propanol | 812.3 mg, yield 47.4% | C(COCCOCCCCCC)(=O)N[C@H]([C@@H](O)C1=CC=CC=C1)CN1CCOCC1 | C23H38N2O5
